US05357001
a) N-BOC-L-Methionine-1-menthylamide
0.45 mol of triethylamine is added to 0.45 mol of N-BOC-L-methionine in 1 l of THF at 0° C. The mixture is cooled to -12° C., and 0.45 mol of ethyl chloroformate is added dropwise. Stirring at -12° C. is continued for 20 minutes, and 0.45 mol of L-menthylamine is added dropwise. Stirring at 0° C. is continued for 45 minutes, and the mixture is then allowed to warm to room temperature.

reactant | triethylamine | 0.45 mol | C(C)N(CC)CC | C6H15N
reactant | N-BOC-L-methionine | 0.45 mol | C(=O)(OC(C)(C)C)N[C@@H](CCSC)C(=O)O | C10H19NO4S
reactant | ethyl chloroformate | 0.45 mol | ClC(=O)OCC | C3H5ClO2
reactant | L-menthylamine | 0.45 mol | CC1CCC(C(C1)N)C(C)C | C10H21N
solvent | THF | 1 l | C1CCOC1 | C4H8O
product | N-BOC-L-Methionine-1-menthylamide | C1(CCC(CC1)C(C)C)(C)NC([C@@H](NC(=O)OC(C)(C)C)CCSC)=O | C20H38N2O3S
